US08937092B2
10% Pd/C (42 mg) was added to a solution of tert-butyl N-(2-fluoro-4-nitrobenzyl)sulfamoylcarbamate (135 mg) in ethanol and tetrahydrofuran. The mixture was charged with H2 and stirred for 6 h. The reaction mixture was filtered using celite and evaporated in vacuo to obtain tert-butyl N-(4-amino-2-fluorobenzyl)sulfamoylcarbamate (127 mg, 99%).

reactant | tert-butyl N-(2-fluoro-4-nitrobenzyl)sulfamoylcarbamate | 135 mg | FC1=C(CNS(=O)(=O)NC(OC(C)(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C12H16FN3O6S
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd/C | 42 mg | [Pd] | Pd
product | tert-butyl N-(4-amino-2-fluorobenzyl)sulfamoylcarbamate | 127 mg, 99% | NC1=CC(=C(CNS(=O)(=O)NC(OC(C)(C)C)=O)C=C1)F | C12H18FN3O4S
